US07612088B2
c) 3-(6,7-Dihydro-5H-imidazo[1,5-a]pyridin-8-ylidene)pyrrolidin-2-one
0.23 ml of phosphorus oxychloride are added dropwise to a solution of 0.50 g of 3-(8-hydro-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-yl)pyrrolidin-2-one and 7.5 ml of pyridine at 0° C., and the reaction mixture is then warmed to room temperature. After 1 hour, 1.02 ml of 1,8-diazabicyclo[5.4.0]undec-7-ene are added. After 3 hours water is added to the reaction mixture, and it is extra with dichloromethane (3×)—the combined organic phases are washed successively with 1N NaOH and water, dried with sodium sulphate and evaporated. The title compound is identified from the residue by flash chromatography (SiO2 60F) on the basis of the Rf.

reactant | phosphorus oxychloride | 0.23 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | pyridine | 7.5 ml | N1=CC=CC=C1 | C5H5N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.02 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(6,7-Dihydro-5H-imidazo[1,5-a]pyridin-8-ylidene)pyrrolidin-2-one | C=1N=CN2C1C(CCC2)=C2C(NCC2)=O | C11H13N3O
